US09450174B2
By a method similar to that of Synthetic Example 4, poly-γ-benzyl-L-glutamic acid was obtained and dissolved in 1,2-dichloroethane. Thereto were added an equivalent amount of norbornane-2-methanol (manufactured by Tokyo Chemical Industry Co., Ltd.) relative to the glutamic acid unit of poly-γ-benzyl-L-glutamic acid and a catalytic amount of p-toluenesulfonic acid monohydrate, and the mixture was stirred at 65° C. for 4 days to give a γ-benzyl-L-glutamic acid/γ-2-norbornylmethyl-L-glutamic acid copolymer. The weight average molecular weight, Mw, of the obtained copolymer was measured by Measurement Method 1 described below. In addition, the composition of the polymer after transesterification reaction was measured by Measurement Method 2 described below.

reactant | norbornane-2-methanol | C12C(CC(CC1)C2)CO | C8H14O
reactant | glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | γ-benzyl-L-glutamic acid γ-2-norbornylmethyl-L-glutamic acid | C(C1=CC=CC=C1)C(C[C@H](N)C(=O)O)C(=O)O.C12C(CC(CC1)C2)CC(C[C@H](N)C(=O)O)C(=O)O | InChI=1S/C13H21NO4.C12H15NO4/c14-11(13(17)18)6-10(12(15)16)5-9-4-7-1-2-8(9)3-7;13-10(12(16)17)7-9(11(14)15)6-8-4-2-1-3-5-8/h7-11H,1-6,14H2,(H,15,16)(H,17,18);1-5,9-10H,6-7,13H2,(H,14,15)(H,16,17)/t7?,8?,9?,10?,11-;9?,10-/m00/s1
